US08008283B2
In a similar manner to Example 7, piretanide can be reacted with EDC, HOBt and diethylamine in DMF to yield N,N-diethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)-benzamide.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | EDC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diethylamine | C(C)NCC | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | N,N-diethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)-benzamide | C(C)N(C(C1=CC(=C(C(=C1)N1CCCC1)OC1=CC=CC=C1)S(=O)(=O)N)=O)CC | C21H27N3O4S
